US07662965B2
Synthesis of 3-(3-(3-(4-chlorophenoxy)benzylidene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (162 mg, 0.64 mmol) was suspended in a reaction vessel with i-propanol (12 mL). 3-(4-chlorophenoxy)benzaldehyde (225 mg, 0.97 mmol) was then added and the reaction vessel sealed. The reaction was heated to 80° C. overnight and then cooled to room temperature. The precipitate was recovered by vacuum filtration, washed with a 20% i-propanol in hexane solution then dried under vacuum giving 161 mg (56%) of a tan-colored solid. LC-MS: RT=6.22 min, [M+H]+=375.1.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.64 mmol, 162 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | 3-(4-chlorophenoxy)benzaldehyde | 0.97 mmol, 225 mg | ClC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9ClO2
solvent | i-propanol | 12 mL | C(C)(C)O | C3H8O
product | 3-(3-(3-(4-chlorophenoxy)benzylidene)-3,4,5,6-tetrahydropyridin-2-yl)pyridine dihydrochloride | 161 mg, 56% | Cl.Cl.ClC1=CC=C(OC=2C=C(C=C3C(=NCCC3)C=3C=NC=CC3)C=CC2)C=C1 | InChI=1S/C23H19ClN2O.2ClH/c24-20-8-10-21(11-9-20)27-22-7-1-4-17(15-22)14-18-5-3-13-26-23(18)19-6-2-12-25-16-19;;/h1-2,4,6-12,14-16H,3,5,13H2;2*1H
